US08377954B2
To a solution of 8-benzyl-1-(3-fluorophenyl)-1,8-diazaspiro[4.5]decane-2,4-dione (Intermediate 1A.4-1, 300 mg, 0.85 mmol) in isopropanol (4.3 ml) were added 3-bromopropylamine hydrobromide (205 mg, 0.94 mmol) and 2,6-lutidine (0.22 ml, 1.87 mmol). The reaction vessel was sealed and heated at 80° C. for 3 days. The reaction was concentrated in vacuo and partitioned between dichloromethane and 1N NaOH. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The crude material was purified via flash chromatography (silica, 0-5% methanol (10% NH4OH)/dichloromethane) to yield 1-benzyl-6′-(3-fluorophenyl)-1′,2′,3′,4′-tetrahydrospiro[piperidine-4,7′-pyrrolo[3,4-b]pyridin]-5′(6′H)-one. LCMS (M+H) 392.1. 1H NMR (400 MHz, CDCl3) δ 7.28 (m, 6H), 7.03 (td, J=8.2, 2.0 Hz, 1H), 6.97 (d, J=7.9 Hz, 1H), 6.92 (dt, J=9.9, 2.1 Hz, 1H), 3.46 (s, 2H), 3.33 (m, 2H), 2.52 (t, J=6.1 Hz, 41H), 2.33 (t, J=6.2 Hz, 2H), 2.06 (quint, J=6.9 Hz, 2H), 1.84 (m, 4H).

reactant | 8-benzyl-1-(3-fluorophenyl)-1,8-diazaspiro[4.5]decane-2,4-dione | 0.85 mmol, 300 mg | C(C1=CC=CC=C1)N1CCC2(C(CC(N2C2=CC(=CC=C2)F)=O)=O)CC1 | C21H21FN2O2
reactant | 3-bromopropylamine hydrobromide | 0.94 mmol, 205 mg | Br.BrCCCN
reactant | 2,6-lutidine | 1.87 mmol, 0.22 ml | N1=C(C=CC=C1C)C | C7H9N
solvent | isopropanol | 4.3 ml | C(C)(C)O | C3H8O
product | 1-benzyl-6′-(3-fluorophenyl)-1′,2′,3′,4′-tetrahydrospiro[piperidine-4,7′-pyrrolo[3,4-b]pyridin]-5′(6′H)-one | C(C1=CC=CC=C1)N1CCC2(N(C(C3=C2NCCC3)=O)C3=CC(=CC=C3)F)CC1 | C24H26FN3O
